US07943622B2
Step 3. Synthesis of tert-butyl 3-((pyridin-3-ylamino)methyl)piperazine-1-carboxylate
Borane-THF complex (1.0 M solution in THF, 3.4 mL, 3.4 mmol) was added to a solution of tert-butyl 3-(pyridin-3-ylcarbamoyl)piperazine-1-carboxylate (522 mg, 1.70 mmol) in THF (4 mL). The reaction mixture was heated to reflux for 5 h. Upon cooling to rt, the reaction mixture was carefully quenched by the dropwise addition of MeOH. After gas evolution ceased, MeOH (10 mL) was added, and the reaction mixture was heated to reflux overnight. Upon cooling to rt, the reaction mixture was concentrated under reduced pressure, yielding the title compound which was used without further purification. LC-MS: RT=2.90 min, [M+H]+=293.1.

reactant | Borane THF | 3.4 mmol, 1.0 M, 3.4 mL | B.C1CCOC1
reactant | tert-butyl 3-(pyridin-3-ylcarbamoyl)piperazine-1-carboxylate | 1.70 mmol, 522 mg | N1=CC(=CC=C1)NC(=O)C1CN(CCN1)C(=O)OC(C)(C)C | C15H22N4O3
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-((pyridin-3-ylamino)methyl)piperazine-1-carboxylate | N1=CC(=CC=C1)NCC1CN(CCN1)C(=O)OC(C)(C)C | C15H24N4O2
